US05827887
methyl 3-chloro-4-[[(trifluoromethyl)sulfonyl]oxy]-benzoate
A mixture of 3 g of methyl 3-chloro-4-hydroxybenzoate, 5.3 ml of trifluoromethanesulfonic anhydride and 30 ml of pyridine was stirred for 6 hours under an inert gas atmosphere at 0° C. and then was poured into ice-cooled water. After extraction with ethyl acetate, and drying of the organic phase over magnesium sulfate, concentration was carried out under reduced pressure to obtain 6.84 g of the expected product.

reactant | methyl 3-chloro-4-hydroxybenzoate | 3 g | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
reactant | trifluoromethanesulfonic anhydride | 5.3 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | methyl 3-chloro-4-[[(trifluoromethyl)sulfonyl]oxy]-benzoate | 6.84 g | ClC=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C9H6ClF3O5S
